### PR TITLE
[Merged by Bors] - refactor(Probability/Density): define pdf using rnDeriv

### PR DESCRIPTION
**Pull request by hanwenzhu**
Defines `pdf` in terms of `rnDeriv`.

Main definition change:
```lean
/-- A random variable `X : Ω → E` is said to `HasPDF` with respect to the measure `ℙ` on `Ω` and
`μ` on `E` if the push-forward measure of `ℙ` along `X` is absolutely continuous with respect to
`μ` and they `HaveLebesgueDecomposition`. -/
class HasPDF {m : MeasurableSpace Ω} (X : Ω → E) (ℙ : Measure Ω)
    (μ : Measure E := by volume_tac) : Prop where
  pdf' : Measurable X ∧ HaveLebesgueDecomposition (map X ℙ) μ ∧ map X ℙ ≪ μ

/-- If `X` is a random variable that `HasPDF X ℙ μ`, then `pdf X` is the Radon–Nikodym
derivative of the push-forward measure of `ℙ` along `X` with respect to `μ`. -/
def pdf {_ : MeasurableSpace Ω} (X : Ω → E) (ℙ : Measure Ω) (μ : Measure E := by volume_tac) :
    E → ℝ≥0∞ :=
  if HasPDF X ℙ μ then (map X ℙ).rnDeriv μ else 0
```

The law of the unconscious statistician is first generalized to `rnDeriv` on a general Banach space (`∫ x, (μ.rnDeriv ν x).toReal • f x ∂ν = ∫ x, f x ∂μ`), and then proven for PDFs.

[Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Definition.20of.20pdf.20as.20rnDeriv)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by hanwenzhu** [comment]
For now two things I am not sure of are: should there be an `if` at all in the definition of `pdf` (though we can always change that later), and where to place the lemmas about ∫gdμ = ∫g(dμ/dν)dν.

File: Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean [hunk 1]
```diff
@@ -129,6 +129,23 @@ theorem withDensityᵥ_smul' {𝕜 : Type*} [NontriviallyNormedField 𝕜] [Norm
   withDensityᵥ_smul f r
 #align measure_theory.with_densityᵥ_smul' MeasureTheory.withDensityᵥ_smul'
 
+theorem withDensityᵥ_smul_eq_withDensityᵥ_withDensity {f : α → ℝ≥0} {g : α → E}
+    (hf : Measurable f) (hfg : Integrable (f • g) μ) :
```
Comment (JasonKYi) [inline Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean:133]: Can you relax the measurability condition to ae measurable

File: Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean [hunk 2]
```diff
@@ -129,6 +129,23 @@ theorem withDensityᵥ_smul' {𝕜 : Type*} [NontriviallyNormedField 𝕜] [Norm
...
+    μ.withDensityᵥ (f • g) = (μ.withDensity (fun x ↦ f x)).withDensityᵥ g := by
+  ext s hs
+  rw [withDensityᵥ_apply hfg hs,
+    withDensityᵥ_apply ((integrable_withDensity_iff_integrable_smul hf).mpr hfg) hs,
+    set_integral_withDensity_eq_set_integral_smul₀ hf.aemeasurable.restrict _ hs]
+  rfl
+
+theorem withDensityᵥ_smul_eq_withDensityᵥ_withDensity' {f : α → ℝ≥0∞} {g : α → E}
+    (hf : Measurable f) (hflt : ∀ᵐ x ∂μ, f x < ∞)
```
Comment (JasonKYi) [inline Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean:142]: Same as above

File: Mathlib/Probability/Density.lean [hunk 3]
```diff
@@ -63,30 +63,60 @@ namespace MeasureTheory
...
 /-- A random variable `X : Ω → E` is said to `HasPDF` with respect to the measure `ℙ` on `Ω` and
-`μ` on `E` if there exists a measurable function `f` such that the push-forward measure of `ℙ`
-along `X` equals `μ.withDensity f`. -/
+`μ` on `E` if the push-forward measure of `ℙ` along `X` is absolutely continuous with respect to
+`μ` and they `HaveLebesgueDecomposition`. -/
 class HasPDF {m : MeasurableSpace Ω} (X : Ω → E) (ℙ : Measure Ω)
     (μ : Measure E := by volume_tac) : Prop where
-  -- porting note: TODO: split into fields `Measurable` and `exists_pdf`
-  pdf' : Measurable X ∧ ∃ f : E → ℝ≥0∞, Measurable f ∧ map X ℙ = μ.withDensity f
+  pdf' : Measurable X ∧ HaveLebesgueDecomposition (map X ℙ) μ ∧ map X ℙ ≪ μ
```
Comment (JasonKYi) [inline Mathlib/Probability/Density.lean:70]: It was decided that even in probability theory, we should stick with ae measurable instead of measurable, so can you change the definition to require ae measurable instead?

File: Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean (hunk 1 above)
Comment (hanwenzhu) [reply Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean:133]: For this and the other theorems, should I create a two theorems, one for measurable and one for ae measurable, or should I only keep the ae measurable theorem?

**Comment by hanwenzhu** [comment]
@JasonKYi I definitely agree with changing it to ae measurable, and it in fact makes many properties much better. In particular I think I can define `pdf` to be unconditionally (without the `if HasPDF`) since `map X` is 0 when X not AEMeasurable. And then I can prove some theorems for pdf in general, though most of them will be specific to when `map X ℙ ≪ μ` and AEMeasurable X and HaveLebesgueDecomposition, i.e. `HasPDF`. I will try to update to do this and see if anything breaks

File: Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean (hunk 1 above)
Comment (JasonKYi) [reply Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean]: I would only keep the ae measurable theorems as it is easy to get ae measurable from measurable

Comment (hanwenzhu) [reply Mathlib/MeasureTheory/Measure/WithDensityVectorMeasure.lean]: Great, that is what I did in the new commits

File: Mathlib/Probability/Density.lean [hunk 4]
```diff
@@ -63,190 +63,206 @@ namespace MeasureTheory
...
+theorem pdf_of_not_aemeasurable {_ : MeasurableSpace Ω} {ℙ : Measure Ω} {μ : Measure E}
+    {X : Ω → E} (hX : ¬AEMeasurable X ℙ) : pdf X ℙ μ =ᵐ[μ] 0 := by
+  unfold pdf
+  rw [map_of_not_aemeasurable hX]
+  exact rnDeriv_zero μ
+#align measure_theory.pdf_eq_zero_of_not_measurable MeasureTheory.pdf_of_not_aemeasurable
+
+theorem pdf_of_not_haveLebesgueDecomposition {_ : MeasurableSpace Ω} {ℙ : Measure Ω}
+    {μ : Measure E} {X : Ω → E} (h : ¬(map X ℙ).HaveLebesgueDecomposition μ) : pdf X ℙ μ = 0 := by
+  unfold pdf
```
Comment (JasonKYi) [inline Mathlib/Probability/Density.lean:150]: You probably don't need to unfold here

File: Mathlib/Probability/Density.lean [hunk 5]
```diff
@@ -63,190 +63,206 @@ namespace MeasureTheory
...
 
-theorem hasPDF_of_pdf_ne_zero {m : MeasurableSpace Ω} {ℙ : Measure Ω} {μ : Measure E} {X : Ω → E}
-    (h : pdf X ℙ μ ≠ 0) : HasPDF X ℙ μ := by
-  by_contra hpdf
-  simp [pdf, hpdf] at h
-#align measure_theory.has_pdf_of_pdf_ne_zero MeasureTheory.hasPDF_of_pdf_ne_zero
+theorem pdf_of_not_aemeasurable {_ : MeasurableSpace Ω} {ℙ : Measure Ω} {μ : Measure E}
+    {X : Ω → E} (hX : ¬AEMeasurable X ℙ) : pdf X ℙ μ =ᵐ[μ] 0 := by
+  unfold pdf
+  rw [map_of_not_aemeasurable hX]
```
Comment (JasonKYi) [inline Mathlib/Probability/Density.lean:144]:
```suggestion
  rw [pdf, map_of_not_aemeasurable hX]
```
Untested

File: Mathlib/Probability/Density.lean [hunk 6]
```diff
@@ -63,190 +63,206 @@ namespace MeasureTheory
...
-  unfold pdf
-  split_ifs with h
-  exacts [(Classical.choose_spec h.1.2).1, measurable_zero]
+  exact measurable_rnDeriv _ _
 #align measure_theory.measurable_pdf MeasureTheory.measurable_pdf
 
+theorem withDensity_pdf_le_map {m : MeasurableSpace Ω} (X : Ω → E) (ℙ : Measure Ω)
+    (μ : Measure E := by volume_tac) : μ.withDensity (pdf X ℙ μ) ≤ map X ℙ := by
+  rw [pdf_def]
+  exact withDensity_rnDeriv_le _ _
```
Comment (JasonKYi) [inline Mathlib/Probability/Density.lean:177]:
```suggestion
    (μ : Measure E := by volume_tac) : μ.withDensity (pdf X ℙ μ) ≤ map X ℙ := withDensity_rnDeriv_le _ _
```

File: Mathlib/Probability/Density.lean [hunk 7]
```diff
@@ -63,190 +63,206 @@ namespace MeasureTheory
...
 nonrec theorem ae_lt_top [IsFiniteMeasure ℙ] {μ : Measure E} {X : Ω → E} :
     ∀ᵐ x ∂μ, pdf X ℙ μ x < ∞ := by
-  by_cases hpdf : HasPDF X ℙ μ
-  · haveI := hpdf
-    refine' ae_lt_top (measurable_pdf X ℙ μ) _
-    rw [lintegral_eq_measure_univ]
-    exact measure_ne_top _ _
-  · simp [pdf, hpdf]
+  rw [pdf_def]
+  exact rnDeriv_lt_top (map X ℙ) μ
```
Comment (JasonKYi) [inline Mathlib/Probability/Density.lean:225]: Since `pdf_def` is true by `rfl`, the proof should work without unfolding the definition with rewrite

**Comment by hanwenzhu** [comment]
@JasonKYi Thank you for the suggestions! I implemented the changes.

**Comment by JasonKYi** [comment]
Thanks!

maintainer merge

**Comment by RemyDegenne** [comment]
Thanks!
bors r+
